Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Right facial droop, slurred speech, confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old ___ man with a PMH significant for 
hypertension, hyperlipidemia, glucose intolerance who presented 
with altered mental status, slurred speech and instability. The 
night of admission Mr ___ was at his baseline (active: 
exercises every morning walking for 1h w/o a cane or a walker,
manages the home finances). At 21:30 he was watching tv with his 
wife and felt tired and sleepy. He stood up and experienced 
imbalance (walked a couple of steps forward, almost fell, and 
regained his equilibrium on his own). There was no headache, 
chest pain, or rotatory sensation. He reports things were 
blurry, but there was no diplopia. He then walked toward the 
kitchen, poured a glass of milk without experiencing any 
weakness, and had it with cookies without any difficulties to 
swallow. He felt just sleepy and tired. However, there was no 
numbness, tingling, needle sensation in his skin. He reports no 
weakness. His wife became concerned and called his daughter. She 
states he had a fluent speech and was able to produce 
intellegible sentences. However, they were out of context. He 
would discuss events that happened many years ago, instead of 
following the conversation that was ongoing. She also felt he 
had a slurred speech. They failed to notice any other deficits, 
but remark he had a RIGHT facial droop. All these symptoms 
occurred simultaneously and lasted from 21:30 till 22:30. 
Conversely, he denies any symptoms at all, but remembers the 
events. He had no chest pain or SOB. There was no presyncopal or 
syncopal event. He had never experienced this type of a 
situation before. Mr. ___ seems to be compliant with his 
medications and carries out with a healthy life style (as 
explained above). Given the situation, his daughter became 
alarmed around 22:15 and a while later, brought him to the 
hospital. Once at ___, he was triaged at 23:48 (___ then 153). 
At this time, he had a RIGHT facial droop. BP 146/ 76, 88 bpm, 
RR 12 in RA at SO2 97%. Afebrile. FSG 103. A code stroke was 
called at 23:53 and the neurology resident arrived to at the 
scene at 23:55. 

NIHSS: 1.

ROS: general and neurological: non-contributory. 
 
Past Medical History:
Hypertension
Dyslipidemia
Glucose intolerance
S/p Cardiac cath in ___: normal coronary arteries. 
Carotid dupplex ___: no evidence of stenosis. 
___ Bilateral inguinal hernia repairs w/ mesh
Prostate cancer diagnosed ___ years ago, s/p radical prostatectomy

 
Social History:
___
Family History:
No family history of Seizures, stroke, CAD at an early age.

 
Physical Exam:
140/ 70, 70 bpm. RR 12, SO2 99% in 2l NC. Speaking in full 
sentences. Afebrile. 

Gen: Lying in bed, NAD. 
HEENT: NC/AT, moist oral mucosa
Neck: supple, no carotid or vertebral bruit
Back: No point tenderness or erythema
CV: tachycardic, Nl S1 and S2, no murmurs/gallops/rubs
Lung: Clear to auscultation bilaterally
Abd: Soft, nontender, non-distended.  No masses or megalies. 
Percussion within normal limits. +BS.
Ext: no edema, no DVT data. Pulses ++ and symmetric.

Neurologic examination:
MS:
General:  alert, awake, normal affect
Orientation:  oriented to person, place, date, situation.
Attention: Months of the year backwards +. Follows 
simple/complex apendicular and axial commands.
Speech/Language: fluent w/o paraphasic errors; Normal 
comprehension, repetition, naming. According to his daughter he 
is slightly slurred. Reading not tested (glasses not available). 

Memory: Registers ___ and Recalls ___ when given semantic cuing.
Noevidence of apraxis/ agnosia.
No field cuts.

CN:
I: not tested
II,III:  VFF to confrontation, PERRL 4mm to 2mm, fundi normal
III,IV,VI: EOMI, no ptosis. No nystagmus
V:  sensation intact V1-V3 to LT
VII:  Facial strength intact/symmetrical
VIII:  hears finger rub bilaterally
IX,X:  palate elevates symmetrically, uvula midline
XI:  SCM/trapezeii ___ bilaterally
XII:  tongue protrudes midline, no dysarthria

Motor: Normal bulk.  
No tremor, no asterixis or myoclonus. No pronator drift.       
       Delt;C5 bic:C6 Tri:C7 Wr ext:C6 Fing ext:C7 Grip:C8/ T1 
Interosseous
Left     5      5      5       5          5             5        
5
Right    4      5      5       5          5             5        
5    
     IP:L2 Quad:L3  Hamst:L4-S1 Dorsiflex:L4 ___ 
Pl.flex:S1-S2
Left  5      5      5           5          5        5
Right 5      5      5           5          5        5 
Deep tendon Reflexes: No clonus.      
Bicip:C5 Tric:C7 Brachial:C6 Patellar:L4     Toes:
Right   1        1         1          1     DOWNGOING
Left    1        1         1          1     DOWNGOING 

Sensation: Intact to light touch, vibration, proprioception, and 
temperature.

Coordination:
*Finger-nose-finger normal with the RIGHT hand. 
*There is an intentional tremor with the LEFT hand. 
*Rapid Arm Movements normal. 
*Fine finger tapping: normal b/l (including tapping the crease).
*Gait/Romberg: Would not cooperate (will do it tomorrow). 
 
Pertinent Results:
LABS:
___ 11:30PM BLOOD WBC-7.7# RBC-4.17* Hgb-13.8* Hct-39.1* 
MCV-94 MCH-33.0* MCHC-35.2* RDW-12.7 Plt ___
___ 05:35AM BLOOD WBC-7.3 RBC-4.08* Hgb-13.3* Hct-38.9* 
MCV-95 MCH-32.7* MCHC-34.3 RDW-12.5 Plt ___
___ 11:30PM BLOOD Neuts-70.8* ___ Monos-4.4 
Eos-5.9* Baso-0.3
___ 11:30PM BLOOD ___ PTT-29.2 ___
___ 11:30PM BLOOD Glucose-102 UreaN-20 Creat-0.9 Na-136 
K-3.7 Cl-100 HCO3-29 AnGap-11
___ 05:35AM BLOOD Glucose-122* UreaN-15 Creat-1.0 Na-139 
K-4.3 Cl-103 HCO3-30 AnGap-10
___ 11:30PM BLOOD Glucose-102 UreaN-20 Creat-0.9 Na-136 
K-3.7 Cl-100 HCO3-29 AnGap-11
___ 05:35AM BLOOD Glucose-122* UreaN-15 Creat-1.0 Na-139 
K-4.3 Cl-103 HCO3-30 AnGap-10
___ 11:30PM BLOOD CK(CPK)-124
___ 05:35AM BLOOD ALT-30 AST-22 LD(LDH)-149 CK(CPK)-118 
AlkPhos-47 Amylase-60 TotBili-0.8
___ 05:35AM BLOOD Lipase-32
___ 11:30PM BLOOD CK-MB-3
___ 11:30PM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:35AM BLOOD Albumin-3.6 Calcium-8.6 Phos-2.2* Mg-2.3 
UricAcd-3.4 Iron-67 Cholest-151
___ 05:35AM BLOOD calTIBC-261 Ferritn-304 TRF-201
___ 05:35AM BLOOD %HbA1c-PND
___ 05:35AM BLOOD Triglyc-588* HDL-26 CHOL/HD-5.8
___ 05:35AM BLOOD TSH-0.67
___ 05:35AM BLOOD Ethanol-NEG Bnzodzp-NEG Barbitr-NEG

IMAGING:
CT Head (___): IMPRESSION: No acute intracranial pathology 
including no hemorrhage.

CXR (___): IMPRESSION: No acute intrathoracic pathology.

MR/MRA Head (___): Pending at the time of discharge

 
Brief Hospital Course:
The patient is a ___ year old man with a history of hypertension, 
dyslipidemia, and glucose intolerance who presents with a one 
day history of right facial droop, slurred speech, and slight 
confusion in the setting of taking 2 Tylenol ___ and 1 Ambien for 
insomnia on the evening prior to admission. CEs were negative, 
TSH 0.67, Chol 151, HDL 26, ___ 588. CT Head showed no acute 
intracranial pathology including no hemorrhage. MRI/MRA head 
showed no diffusion abnormalities. There was a FLAIR 
hyperintensity in the right fronto-temporal lobe, and the 
patient was instructed to have a repeat MRI head with contrast 
as an outpatient. The MRI/MRA final read was pending at the time 
of discharge. He was continued on ASA 325 mg daily, Benicar HCT 
___ mg 1 tablet daily, Metoprolol 50 mg bid, and Vytorin ___ 
1 tablet qhs. Per his family, he was back to baseline at the 
time of discharge. He was instructed to follow up with Neurology 
as an outpatient.

 
Medications on Admission:
Aspirin 325mg daily 
Benicar HCT ___, one tablet every morning
Metoprolol 50mg one tablet twice a day
Vytorin ___ one tablet every evening after supper
Calcium citrate
Fish oil
MVI
Vitamin E 400 IU daily every morning

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Benicar HCT ___ mg Tablet Sig: One (1) Tablet PO qAM.  
3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO twice 
a day.  
4. Vytorin ___ mg Tablet Sig: One (1) Tablet PO at 
bedtime. Tablet(s) 
5. Calcium Citrate  Oral
6. Fish Oil  Oral
7. Multivitamin  Oral
8. Vitamin E 400 unit Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Transient Confusion likely secondary to sleeping medications

 
Discharge Condition:
Stable, back to baseline

 
Discharge Instructions:
You were admitted to the hospital with right facial droop and 
slurred speech, in the setting of taking Tylenol ___ and Ambien 
to help with sleep. An MRI of your head did not show any 
evidence of a stroke. You should follow up with Neurology as an 
outpatient, with consideration of a repeat head MRI with 
contrast in the future (given one bright spot found on the MRI 
head in the hospital).

There were no changes made to your medications. You should 
continue taking Aspirin 325 mg daily.

If you develop weakness or numbness, difficulty speaking or 
swallowing, loss of vision or blurry vision, nausea/vomiting, 
fevers/chills, or any other symptoms that concern you, call your 
PCP or return to the ED.
 
Followup Instructions:
___